US09315521B2
Sodium methoxide (25% wt solution, 50 mL) was added slowly to a 0° C. solution of methyl 2,2-dichloroacetate (25 mL, 261 mmol) and acetaldehyde (15 mL, 267 mmol) in 200 mL diethyl ether. The mixture was stirred at 0° C. for 1 hour. Water (100 mL) was added, and the organic layer was recovered. The aqueous phase was extracted with diethyl ether (2×100 mL). The organic extracts were combined, washed with brine (2×200 mL), dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude oil (29 g) was dissolved in MeOH (250 mL), and thiourea (15.5 g, 190 mmol) was added. The solution was stirred at reflux for 4 hours. After cooling to room temperature, the solvent was evaporated. The oily residue was dissolved in MeOH (50 mL). The solution was poured into ice/water (500 mL). The pH was brought to approximately 8-9 with concentrated ammonium hydroxide. The yellow solid material was recovered by filtration, washed with water (3×50 mL) and hexanes (3×50 mL), and dried in vacuo, affording methyl 2-amino-5-methyl-1,3-thiazole-4-carboxylate (11.7 g, 26%) as a yellow solid. The product was used without further purification.

reactant | Sodium methoxide | 50 mL | C[O-].[Na+]
reactant | methyl 2,2-dichloroacetate | 261 mmol, 25 mL | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | acetaldehyde | 267 mmol, 15 mL | C(C)=O | C2H4O
reactant | thiourea | 190 mmol, 15.5 g | NC(=S)N | CH4N2S
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | Water | 100 mL | O | H2O
product | methyl 2-amino-5-methyl-1,3-thiazole-4-carboxylate | 11.7 g, 26% | NC=1SC(=C(N1)C(=O)OC)C | C6H8N2O2S
